US07253165B2
Synthesis of 3-isoxazolo[5,4-b]pyridin-3-yl-phenol (Scheme II, Compound 9)
Combine 3-(3-methoxy-phenyl)-isoxazolo[5,4-b]pyridine (4.97 g, 21.97 mmol) and 1,2-dichloroethane (anhydrous, 50 mL), under a nitrogen atmosphere and cool (˜5° C.). Add a solution of boron tribromide (19.26 g, 77.89 mmol) in 1,2-dichloroethane (20 mL), dropwise and stir at 50° C. overnight. Cool (0° C.) the reaction mixture and quench with a solution of sodium hydrogen carbonate, dropwise. Pour the reaction mixture over a solution of dilute sodium hydrogen carbonate (˜300 mL) and stir for 1 hour. Filter and collect the solid. Extract the filtrate with chloroform, dry (Na2SO4), filter, evaporate, and combine with previously collected solid. Triturate with ether, filter and dry under vacuum to give the title compound as a white solid (4.2 g, 90% Yield). Microanalysis (C, H, N) is consistent with the final, desired compound. mp=175-178° C.

reactant | 3-(3-methoxy-phenyl)-isoxazolo[5,4-b]pyridine | 21.97 mmol, 4.97 g | COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C13H10N2O2
reactant | boron tribromide | 77.89 mmol, 19.26 g | B(Br)(Br)Br | BBr3
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | 3-isoxazolo[5,4-b]pyridin-3-yl-phenol | 4.2 g, 90% Yield | O1N=C(C=2C1=NC=CC2)C=2C=C(C=CC2)O | C12H8N2O2
